US05256800
In an argon gas stream, 20.6 ml of n-butyl lithium (1.6M solution in hexane) were added to 60 ml of an ether solution containing 3.53 g (0.033 mol) of diisopropylamine at -20° C. to form LDA. After stirring for 30 minutes, the solution was cooled to -78° C., and 10.4 ml (0.06 mol) of HMPA were added thereto, followed by stirring for 15 minutes. Afterward, a mixture of 4.26 g (0.03 mol) of 2,2-dimethyl-6-methyl-1,3-dioxin-4-one and 60 ml of ether as well as 60 ml of an ether solution containing 2.1 g (0.03 mol) of methyl vinyl ketone were added to the solution. After the temperature was gradually returned to room temperature, 10% hydrochloric acid was added thereto to neutralize the solution, and extraction was then carried out with ether. The resultant organic layer was dried over anhydrous magnesium sulfate. Next, the used solvent was distilled off, and the residue was then subjected to column chromatography (an eluent of hexane:ethyl acetate=4:1), thereby obtaining 3.16 g of 2,2-dimethyl-6-(4-oxopentyl)-1,3-dioxin-4-one.

reactant | HMPA | 0.06 mol, 10.4 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 2,2-dimethyl-6-methyl-1,3-dioxin-4-one | 0.03 mol, 4.26 g | CC1(OC(=CC(O1)=O)C)C | C7H10O3
reactant | methyl vinyl ketone | 0.03 mol, 2.1 g | C(=C)C(=O)C | C4H6O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2,2-dimethyl-6-(4-oxopentyl)-1,3-dioxin-4-one | 3.16 g | CC1(OC(=CC(O1)=O)CCCC(C)=O)C | C11H16O4
